data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:10][C:11](C1=CC=CC=C1)(O)[O:12][Na-][O+:21]=[CH:20]C2=CC=CC=C2>>[H:10][CH:20](C1=CC=CC=C1)[O:21][Na-][O+:12]=[C:11](C2=CC=CC=C2)O 10,11=10,20;20,21=21;12=11
[B-:10]([O+:11]=C1CCCC2(CC(=C)C1C2(C)C)C)(Cl)(Cl)Cl>>[B:10](Cl)(Cl)Cl.CC1(C2C(=C)CC1(CCCC2=[O:11])C)C 10,11=11
C(C[OH:10])CO[C:20](=[NH2+:21])O>>C1C[OH+:10][C:20](OC1)([NH2:21])O 10=20;20,21=21
CC(C)[OH+:11][Al-:10](OC1CCCCC12CCCCC2=O)(OC(C)C)OC(C)C.CC(C)O>>CC(C)[OH:11].CC(C)O[Al:10](OC1CCCCC12CCCCC2=O)OC(C)C.CC(C)O 10,11=11
[H:20][CH:21]([C:22](=[O:23])CC1=CC=CC=C1)C(=O)N(C)C.CC[O-:10]>>[H:20][O:10]CC.CN(C)C(=O)[CH:21]=[C:22](CC1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
CCCCC[P+:22](CC)(CCC)[O:21][CH:20](C)C1=C(C=C(C=C1)C)CC.CCC1=C2C(=C(C=C1)C)N=C(S2)[S-:10].CCC1=C2C(=C(C=C1)C)N=C(S2)S>>CCCCC[P:22](=[O:21])(CC)CCC.CCC1=C2C(=C(C=C1)C)N=C(S2)[S:10][CH:20](C)C3=C(C=C(C=C3)C)CC.CCC1=C2C(=C(C=C1)C)N=C(S2)S 10=20;20,21=21,22
CC[OH+:21][CH:20]([NH:10]NC(=O)C1=CC=C(C=C1)F)N2CCN(CC2)C3=C(C=C4C(=C3)N(C=C(C4=O)C(=O)O)C5CC5)F.CC(=O)[O-]>>CC[OH:21].C1CC1N2C=C(C(=O)C3=CC(=C(C=C32)N4CCN(CC4)[CH:20]=[NH+:10]NC(=O)C5=CC=C(C=C5)F)F)C(=O)O.CC(=O)[O-] 10=20;20,21=21
[H:20][N:21]1C(=O)CCC1=O.COC(=[N:10]N(C(=O)OC)[P+](C)(C)C)[O-]>>[H:20][N+:10](=C([O-])OC)N(C(=O)OC)[P+](C)(C)C.C1CC(=O)[N-:21]C1=O 10=20;20,21=21
CC(=O)O[C:11](=[CH:10]C1=CC(=C(C(=C1)OC)OC)OC)[O-:12].COC1=C(C=C(C=C1)[CH:20]=[O:21])O.CC[NH+](CC)CC.CC(=O)[O-]>>CC(=O)O[C:11](=[O:12])[CH:10](C1=CC(=C(C(=C1)OC)OC)OC)[CH:20](C2=CC(=C(C=C2)OC)O)[O-:21].CC[NH+](CC)CC.CC(=O)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O+:21](CCO)C(CCC(=O)C)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)CCC(O)[O:21]CCO 10=20;20,21=21
[H:20][NH2+:21]C1CC(C(CC1SC)CC)CCC2=CC=CC=C2.[NH3:10].[B-](F)(F)(F)F.CSC>>[H:20][NH3+:10].CCC1CC(C(CC1CCC2=CC=CC=C2)[NH2:21])SC.[B-](F)(F)(F)F.CSC 10=20;20,21=21
CC[OH+:21][C:20](C)([OH:10])OC>>CC[OH:21].C[C:20](=[OH+:10])OC 10=20;20,21=21
[H:20][O:21]C(=O)C1=C(C=CC=C1)C(=O)[O-].[OH-:10]>>C1=CC(=C(C=C1)C(=O)[O-:21])C(=O)[O-].[H:20][OH:10] 10=20;20,21=21
[H:20][NH+:21]=C(N)N.[OH2:10]>>[H:20][OH2+:10].C(=[NH:21])(N)N 10=20;20,21=21
[H:20][O:21]C(=O)CCCC=C(F)F.CCOC(=O)NN(C(=[O:10])OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC5=C(C=CC=C5)C=C4>>[H:20][O+:10]=C(N(NC(=O)OCC)P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)OCC4=CC5=C(C=CC=C5)C=C4)OCC.C(CC=C(F)F)CC(=O)[O-:21] 10=20;20,21=21
[H:20][NH2+:21]CC1=CC=CC=C1.C1=CC=C(C=C1)CNC(C=CC2=CC=CC=C2)[O-:10].CO>>[H:20][O:10]C(C=CC1=CC=CC=C1)NCC2=CC=CC=C2.C1=CC=C(C=C1)C[NH2:21].CO 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CCCCC(C1=C(C=CC(=C1)Br)O)(N2CCCC2C3=NN=NN3)[OH:10].C1=CC(=CC=C1C=O)[N+](=O)[O-]>>[H:20][OH+:10]C(CCCC)(C1=C(C=CC(=C1)Br)O)N2CCCC2C3=NN=NN3.C(=O)(C(F)(F)F)[O-:21].C1=CC(=CC=C1C=O)[N+](=O)[O-] 10=20;20,21=21
C1CC2CCC(=O)C(C2C(=[O:10])C1)[CH:20]=[OH+:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1>>C1CC2CCC(=O)C3C2C(=[O+:10][CH:20]3[OH:21])C1.CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=CC=C1 10=20;20,21=21
CC[C+:20]=O.C1=CC=C[CH:10]=[CH:11]1>>CC[C:20](=O)[CH:10]1C=CC=C[CH+:11]1 10,11=10,20
[H:20][NH2+:21]CCN.C1=CC=C(C=C1)C(=O)C(C2=CC=CC=C2)(NCCN)[O-:10].CCO>>C(CN)[NH2:21].[H:20][O:10]C(C1=CC=CC=C1)(C(=O)C2=CC=CC=C2)NCCN.CCO 10=20;20,21=21
[H:10][BH2-:11]C#N.C[N+:21]1=[CH:20]C(C(CC1)(CCCC2=CC=CC=C2)C3=C(C=CC(=C3)OC)OC)Br.[Na+]>>[H:10][CH:20]1C(C(CC[N:21]1C)(CCCC2=CC=CC=C2)C3=C(C=CC(=C3)OC)OC)Br.[BH2:11]C#N.[Na+] 10,11=10,20;20,21=21
[CH2:20](C(=O)[O-])[Cl:21].[NH3:10].[OH2+][Ca]O>>[CH2:20](C(=O)[O-])[NH3+:10].[Cl-:21].[OH2+][Ca]O 10=20;20,21=21
CCOC(=O)[CH:20](C(C)(C1=CC=CC=C1)[O-:10])[Cl:21]>>CCOC(=O)[CH:20]1C([O:10]1)(C)C2=CC=CC=C2.[Cl-:21] 10=20;20,21=21
[B:20](F)(F)F.CCOC(=O)CC(=[O:10])CC(=O)OCC.CCOCC.C(CO)O>>[B-:20]([O+:10]=C(CC(=O)OCC)CC(=O)OCC)(F)(F)F.CCOCC.C(CO)O 10=20,
[H:20][O+:21](C(C1=CC=C2C(=C1)C3=C(C4=C(C=CN=C4)C(=C3N2C)C)C)O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1=C2C(=C(C3=C1C=CN=C3)C)C4=CC(=CC=C4N2C)C(O)[O:21]O 10=20;20,21=21
CCC1=CC(=C(C(=C1)C)[S+:21]2[CH2:20]C2C)C.[NH3:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CO>>CCC1=CC(=C(C(=C1)C)[S:21]C(C)[CH2:20][NH3+:10])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CO 10=20;20,21=21
[H:20][C:21]1(C=C(O[C+:22]1C)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1=C[C:21](=[C:22](O1)C)[N+](=O)[O-] 10=20;20,21=21,22
CC1=CC=C(C=C1)S(=O)(=O)[N:10]=CC2=CC(=CC=C2)Cl.Cl[Fe:20](Cl)Cl.C[Si](C)(C)CC=C>>CC1=CC=C(C=C1)S(=O)(=O)[N+:10](=CC2=CC(=CC=C2)Cl)[Fe-:20](Cl)(Cl)Cl.C[Si](C)(C)CC=C 10=20,
CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)([CH-:10][S+:20](C4=CC=CC=C4)[O:21]C(=O)C)O.CC(=O)O.[Na+]>>CC1CC(C(C=C1CO[Si](C2=CC=CC=C2)(C3=CC=CC=C3)C(C)(C)C)(C)CCCO[Si](C)(C)C(C)(C)C)([CH:10]=[S+:20]C4=CC=CC=C4)O.CC(=O)[O-:21].CC(=O)O.[Na+] 10=20;20,21=21
CO[CH+:20][NH-:10]>>CO[CH:20]=[NH:10] 10=20,
C[N+:21](=[CH:20]OC)C.C[OH:10].[Cl-]>>C[N:21](C)[CH:20]([OH+:10]C)OC.[Cl-] 10=20;20,21=21
C1CO[C:20](O1)([O-:10])[Cl:21]>>C1CO[C:20](=[O:10])O1.[Cl-:21] 10=20;20,21=21
CC1CCCC(=[O+:21][Ti-:20](Cl)(Cl)(Cl)Cl)C2C1CC(=C2C)[Si](C)(C)C>>CC1CCCC(=[O:21])C2C1CC(=C2C)[Si](C)(C)C.Cl[Ti:20](Cl)(Cl)Cl 20,21=21
